US07531532B2
Morpholine-4-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide
To a suspension of morpholine-4-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide (941 mg) in ethanol (50 ml) were added water (10 ml), electrolytic iron powder (581 mg), ammonium chloride (1.11 g) and N,N-dimethylformamide (0.75 ml), followed by stirring to heat at 90° C. for 30 min. The reaction mixture was cooled down to room temperature, and filtered to remove an insoluble portion, which was washed with water and N,N-dimethylformamide in this order. The filtrate was concentrated under a reduced pressure to give a residue, to which ethyl acetate (100 ml) and water (100 ml) were added to partition. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:1 to 1:2, ethyl acetate, then ethyl acetate:methanol=20:1 to 10:1). Fractions containing the target compound were concentrated to provide the titled compound (759 mg, 87.8%) as a pale yellow oil.

reactant | morpholine-4-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 941 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C16H15FN4O5
reactant | ammonium chloride | 1.11 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 0.75 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | iron | 581 mg | [Fe] | Fe
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | Morpholine-4-carboxylic acid [4-(4-amino-2-fluorophenoxy)pyridin-2-yl]amide | 759 mg, 87.8% | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCOCC2)C=C1)F | C16H17FN4O3
